US08431695B2
Step 2: Preparation of 1-(4-Amino-5-bromo-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-propan-1-ol
This compound was prepared in a manner similar to the bromination procedure described for the preparation of tert-butyl 4-(4-amino-5-bromopyrrolo[2,1-f][1,2,4]triazin-7-yl)piperidine-1-carboxylate, using 1-(4-amino-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-propan-1-ol as the starting material. 1H NMR (300 MHz, DMSO-d6) δ 7.78 (s, 1H), 7.59 (broad s, 6.80 (d, 1H), 6.52 (d, 1H), 5.11 (d, 1H), 4.98 to 4.93 (m, 1H), 1,83 to 1.66 (m, 2H), 0.84 (t, 3H); ES-MS m/z 271.3/273.1 [M+H]+, RT (min) 1.86.

reactant | tert-butyl 4-(4-amino-5-bromopyrrolo[2,1-f][1,2,4]triazin-7-yl)piperidine-1-carboxylate | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)C(=O)OC(C)(C)C)Br | C16H22BrN5O2
reactant | 1-(4-amino-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-propan-1-ol | NC1=NC=NN2C1=CC=C2C(CC)O | C9H12N4O
product | 1-(4-Amino-5-bromo-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-propan-1-ol | NC1=NC=NN2C1=C(C=C2C(CC)O)Br | C9H11BrN4O
